US07320973B2
D-Prolinol (2.72 g, 25.0 mmol), 4-pyrrolidinophenethyl mesylate (6.06 g, 22.5 mmol) and sodium carbonate (3.45 g, 25.0 mmol) were added to acetonitrile (150 ml), and they were heated at 90° C. under reflux for 3.5 hours. The reaction mixture was cooled to room temperature and then filtered. The filtrate was concentrated to dryness under reduced pressure, and the residue was distributed into ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. 1 M hydrochloric acid was added to the organic layer and pH of the aqueous layer was kept at 1 to extract the intended product in the aqueous layer. 4 M sodium hydroxide was added to the aqueous layer to adjust pH of the aqueous layer to 14, and the intended product was extracted from the precipitates thus formed with ethyl acetate. The extract was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain (R)-2-hydroxymethyl-1-(4-pyrrolidinophenethyl)pyrrolidine in the form of a light yellow oily substance (4.96 g, 85%).

reactant | D-Prolinol | 25.0 mmol, 2.72 g | N1[C@@H](CO)CCC1 | C5H11NO
reactant | 4-pyrrolidinophenethyl mesylate | 22.5 mmol, 6.06 g | S(C)(=O)(=O)OCCC1=CC=C(C=C1)N1CCCC1 | C13H19NO3S
reactant | sodium carbonate | 25.0 mmol, 3.45 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | (R)-2-hydroxymethyl-1-(4-pyrrolidinophenethyl)pyrrolidine | OC[C@@H]1N(CCC1)CCC1=CC=C(C=C1)N1CCCC1 | C17H26N2O
